US20010007001A1
A modified polyethylene is made in accordance with the practice of the present invention by initially preheating 42 parts of low density polyethylene to a temperature of 110° C. The polyethylene was agitated for a period of about 5 minutes and a mixture of 1 part of the adduct of maleic anhydride and iminodiacetic acid and 0.042 part of dicumyl peroxide was added to the polyethylene while it was stirred. After the mixture was agitated for two minutes, the temperature of the mixture was raised to 165° C. The resulting melt was then agitated for an additional 10 minutes and then the molten polyethylene was removed. Based on method of preparation, there was obtained maleic anhydride-iminodiacetic acid modified polyethylene. The identity of the product is confirmed by its infrared spectrum and oxygen analysis.

reactant | polyethylene | C(C[*:2])[*:1]
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | iminodiacetic acid | N(CC(=O)O)CC(=O)O | C4H7NO4
reactant | dicumyl peroxide | C(C)(C)(C1=CC=CC=C1)OOC(C)(C)C1=CC=CC=C1 | C18H22O2
product | maleic anhydride iminodiacetic acid | C1(\C=C/C(=O)O1)=O.N(CC(=O)O)CC(=O)O | InChI=1S/C4H7NO4.C4H2O3/c6-3(7)1-5-2-4(8)9;5-3-1-2-4(6)7-3/h5H,1-2H2,(H,6,7)(H,8,9);1-2H
